US06747030B1
cis-5-Fluoro-6-(3,4,5-trimethylpiperazin-1-yl)indoline (D38)
The title compound was prepared from 1-acetyl-6-bromo-5-fluoroindoline (prepared by bromination of 5-fluoroindoline analogous to procedure in J. Het. Chem. 1983, 20, 349, followed by N-acylation) by reaction with cis-3,5-dimethylpiperazine using similar procedure to Description 2 (82%), followed by N-methylation using procedure similar to Description 24 (69%), followed by hydrolysis as in Description 3 (96%). The product was isolated as a pale yellow solid.

reactant | 1-acetyl-6-bromo-5-fluoroindoline | C(C)(=O)N1CCC2=CC(=C(C=C12)Br)F | C10H9BrFNO
reactant | 5-fluoroindoline | FC=1C=C2CCNC2=CC1 | C8H8FN
reactant | cis-3,5-dimethylpiperazine | C[C@@H]1CNC[C@@H](N1)C | C6H14N2
product | cis-5-Fluoro-6-(3,4,5-trimethylpiperazin-1-yl)indoline | FC=1C=C2CCNC2=CC1N1C[C@H](N([C@H](C1)C)C)C | C15H22FN3
